US04118496
N,N'-bis-[2-((5-Methyl-4-imidazolyl)methylthio)ethyl]-N"-methylguanidine
In a similar manner N,N'-bis-[2-((5-methyl-4-imidazolyl)-methylthio)ethyl]-N"-butylguanidine may be prepared using butylamine in ethanol in place of ethanolic methylamine.

reactant | N,N'-bis-[2-((5-methyl-4-imidazolyl)-methylthio)ethyl]-N"-butylguanidine | CC1=C(N=CN1)CSCCNC(=NCCCC)NCCSCC=1N=CNC1C | C19H33N7S2
reactant | butylamine | C(CCC)N | C4H11N
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | N,N'-bis-[2-((5-Methyl-4-imidazolyl)methylthio)ethyl]-N"-methylguanidine | CC1=C(N=CN1)CSCCNC(=NC)NCCSCC=1N=CNC1C | C16H27N7S2
